US04190431
p-Fluoronitrobenzene (14.1 g; 0.1 mole) was dissolved in tetrahydrofuran (100 ml.). Ten percent palladium on charcoal catalyst (0.1 g.) was added to the solution followed by hydrazine (6.0 ml; 0.105 mole), and the resulting mixture stirred at room temperature for about 48 hours with cooling as necessary. The reaction mixture containing N-(4-fluorophenyl) hydroxylamine was dried over anhydrous magnesium sulfate and filtered. To this solution was added methyl isocyanate (6.2 ml; 0.1 mole) and the mixture stirred for about 15 minutes. The reaction mixture was concentrated by distilling and then washed with hexane and filtered to yield 1-methyl-3-(4'-fluorophenyl)-3-hydroxyurea as a yellow solid.

reactant | p-Fluoronitrobenzene | 0.1 mole, 14.1 g | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | hydrazine | 0.105 mole, 6.0 ml | NN | H4N2
reactant | N-(4-fluorophenyl) hydroxylamine | FC1=CC=C(C=C1)NO | C6H6FNO
reactant | methyl isocyanate | 0.1 mole, 6.2 ml | CN=C=O | C2H3NO
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
catalyst | palladium on charcoal | 0.1 g | [Pd] | Pd
product | 1-methyl-3-(4'-fluorophenyl)-3-hydroxyurea | CNC(=O)N(O)C1=CC=C(C=C1)F | C8H9FN2O2
